US08669271B2
4-[5-(2-Methoxy-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 2-methoxypyridine-4-boronic acid following a procedure analogous to that described in Example 28. LC (method 10): tR=1.76 min; Mass spectrum (ESI+): m/z=412 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 2-methoxypyridine-4-boronic acid | COC1=NC=CC(=C1)B(O)O | C6H8BNO3
product | 4-[5-(2-Methoxy-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC(=NC=C2)OC)O1 | C23H29N3O4
